US09120749B2
{4-[4-(Aminomethyl)phenylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone
Following general procedure A-2, tert-butyl 4-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]benzylcarbamate (0.117 mmol) was reacted with TFA (2 mL) to afford the desired product (26 mg, 46% over two steps) a yellow solid: 1H NMR (300 MHz, CD3OD+TFA-d) δ 9.44 (s, 1H), 8.25 (d, J=8.7 Hz, 1H), 8.09-7.95 (m, 2H), 7.70 (d, J=8.4 Hz, 2H), 7.55 (d, J=8.4 Hz, 2H), 7.24 (s, 2H), 4.28 (s, 2H), 2.88-2.83 (m, 1H), 1.26-1.13 (m, 4H); ESI MS m/z 478 [C26H21Cl2N3O2+H]+; HPLC>99% (AUC), tR=11.99 min.

reactant | tert-butyl 4-[3-(cyclopropanecarbonyl)-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-4-ylamino]benzylcarbamate | 0.117 mmol | C1(CC1)C(=O)C=1C=NC2=CC=C(C=C2C1NC1=CC=C(CNC(OC(C)(C)C)=O)C=C1)C1=CC(=C(C(=C1)Cl)O)Cl | C31H29Cl2N3O4
reactant | TFA | 2 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | {4-[4-(Aminomethyl)phenylamino]-6-(3,5-dichloro-4-hydroxyphenyl)quinolin-3-yl}(cyclopropyl)methanone | 26 mg, 46% | NCC1=CC=C(C=C1)NC1=C(C=NC2=CC=C(C=C12)C1=CC(=C(C(=C1)Cl)O)Cl)C(=O)C1CC1 | C26H21Cl2N3O2
